US08703922B2
Synthesis of mono-O-(5,9,13-trimethyltetradec-4-enoyl)erythritol
1.0 g (3.5 mmol) of methyl 5,9,13-trimethyltetradec-4-enoate was slowly added dropwise to a solution of erythritol 0.86 g (7.1 mmol) and 0.59 g (4.3 mmol) of potassium carbonate in dry N,N-dimethylformamide (3.5 mL) at 80° C. After the reaction mixture was stirred at 100° C. for 18 hours, 1M hydrochloric acid was added. The resulting solution was extracted with ether, and the extract was washed with saturated sodium bicarbonate aqueous solution and saturated brine, successively, and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated, and the resulting residue was purified by silica gel column chromatography (ethyl acetate/hexane mixture) to obtain 275 mg of the title compound (21% yield).

reactant | methyl 5,9,13-trimethyltetradec-4-enoate | 3.5 mmol, 1.0 g | CC(=CCCC(=O)OC)CCCC(CCCC(C)C)C | C18H34O2
reactant | erythritol | 7.1 mmol, 0.86 g | C([C@H](O)[C@H](O)CO)O | C4H10O4
reactant | potassium carbonate | 4.3 mmol, 0.59 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | N,N-dimethylformamide | 3.5 mL | CN(C=O)C | C3H7NO
product | mono-O-(5,9,13-trimethyltetradec-4-enoyl)erythritol | 275 mg, 21% yield | CC(=CCCC(=O)OC[C@H](O)[C@H](O)CO)CCCC(CCCC(C)C)C | C21H40O5
